US05075461
4-Benzoyloxy-1-hydroxy-1-hexene-3,5-dione (54.20 g, 218 mmol) is refluxed for 2 hours in 400 ml of acetic acid, the reaction mixture is concentrated at 40° C. on a rotary evaporator, the residue is dissolved in 500 ml of dichloromethane and washed twice with 300 ml of saturated sodium bicarbonate solution. The organic phase is dried over magnesium sulphate, concentrated on a rotary evaporator and gives 40.75 g (81.2%) of 3-benzoyloxy-2-methyl-4-pyrone, content 73%, m.p.: 106°-110° C.

reactant | 4-Benzoyloxy-1-hydroxy-1-hexene-3,5-dione | 218 mmol, 54.20 g | C(C1=CC=CC=C1)(=O)OC(C(C=CO)=O)C(C)=O | C13H12O5
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 3-benzoyloxy-2-methyl-4-pyrone | 40.75 g, 81.2% | C(C1=CC=CC=C1)(=O)OC1=C(OC=CC1=O)C | C13H10O4
